US07582629B2
4-Hydroxy-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A solution of N-(2-methoxyethyl)-1-phenylmethanesulfonamide (3.5 g, 14.5 mmol) and diethyl oxalate (2.33 g, 16.0 mmol) in dry DMF was cooled in an ice-bath. Potassium tert-butoxide (2.17 g, 18.4 mmol) was added and after 5 min the ice-bath was removed and the reaction was stirred at rt for 22 h. HCl (2M, 45 mL) was added to the mixture and the acidic solution was extracted 3 times with DCM. The combined organic layer was washed 4 times with water, dried through a phase separator and evaporated. The residue was purified by preparative HPLC [0.1M N OAc/MeCN, gradient A:B (9:1 to 1:9)] to give the title compound (0.250 g, 6%) as a solid; 1H NMR (500 MHz, CD3OD): δ 7.90-7.94 (m, 2H), 7.28-7.33 (m, 2H), 7.10-7.15 (m, 1H), 3.79 (t, 2H), 3.68 (t, 2H), 3.34 (s, 3H); Mass Spectrum: M−H+ 282.

reactant | N-(2-methoxyethyl)-1-phenylmethanesulfonamide | 14.5 mmol, 3.5 g | COCCNS(=O)(=O)CC1=CC=CC=C1 | C10H15NO3S
reactant | diethyl oxalate | 16.0 mmol, 2.33 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Potassium tert-butoxide | 18.4 mmol, 2.17 g | CC(C)([O-])C.[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Hydroxy-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.250 g, 6% | OC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H13NO5S
